* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8674.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 SINE(0 1 100K)
R1 N001 0 1K
R2 OUT N001 1K
Rload OUT 0 2K
X§U1 IN N001 +V -V OUT AD8674
V1 +V 0 15
V2 -V 0 -15
.tran 100u
.lib ADI.lib
.backanno
.end
